US07977331B1
To a solution of methyl (S)-2-[(12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionate (87 mg, 0.16 mmol) in tetrahydrofuran (2 ml) and methanol (1 ml) was added 4N aqueous sodium hydroxide solution (1 ml), and the mixture was stirred at room temperature for 12 hr. The mixture was adjusted to pH 6.5 with 1N hydrochloric acid (4 ml) and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration and concentration, diethyl ether was added to the obtained residue, and the precipitated solid was collected by filtration. The solid was washed with diethyl ether to give (S)-2-[(12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionic acid (61 mg, yield 74%).

reactant | methyl (S)-2-[(12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionate | 0.16 mmol, 87 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)O | C33H34N2O5
reactant | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 4 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | (S)-2-[(12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carbonyl)amino]-3-(4-hydroxyphenyl)propionic acid | 61 mg, yield 74% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)O | C32H32N2O5
